US07572820B2
2-Propyl-1-({5-[3-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}methyl)-1H-indole-4,5-dicarbonitrile
Synthesized as described in Example 4 from 2-propyl-1H-indole-4,5-dicarbonitrile and 3-(chloromethyl)-5-[3-(trifluoromethyl)phenyl]-1,2,4-oxadiazole: 1H NMR (400 MHz, DMSO-d6) δ 8.30 (d, J=7.6 Hz, 1H), 8.25 (s, 1H), 8.14 (s, 1H), 8.07 (d, J=7.6 Hz, 1H), 7.90-7.80 (m, 2H), 7.70 (d, J=8.4 Hz, 1H), 5.95 (s, 2H), 3.06 (t, 2H), 1.79-1.67 (m, 2H), 0.95 (t, J=7.2 Hz, 3H); MS (ES) m/z 436 (M+1).

reactant | 2-propyl-1H-indole-4,5-dicarbonitrile | C(CC)C=1NC2=CC=C(C(=C2C1)C#N)C#N | C13H11N3
reactant | 3-(chloromethyl)-5-[3-(trifluoromethyl)phenyl]-1,2,4-oxadiazole | ClCC1=NOC(=N1)C1=CC(=CC=C1)C(F)(F)F | C10H6ClF3N2O
product | 2-Propyl-1-({5-[3-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}methyl)-1H-indole-4,5-dicarbonitrile | C(CC)C=1N(C2=CC=C(C(=C2C1)C#N)C#N)CC1=NOC(=N1)C1=CC(=CC=C1)C(F)(F)F | C23H16F3N5O
